US07344702B2
Synthesis of 1-hydroxy-2-tetrahydropyranyloxy-2-(4-tert-butylphenyl)ethane
To 1-tert-butyldimethylsilyloxy-2-tetrahydropyranyloxy-2-(4-tertbutylphenyl) ethane (0.4 g, 1.01 mmol) is added tetrabutylammonium fluoride solution (1M TBAF in THF, 5 ml, 5.0 mmol). The solution is stirred for 2 hours after which water is added to the reaction and this is extracted in ethyl acetate. The organic layer is then washed with water, dried and concentrated. The residue obtained is purified by flash chromatography (silica gel; ethyl acetate/hexanes).

reactant | 1-tert-butyldimethylsilyloxy-2-tetrahydropyranyloxy-2-(4-tertbutylphenyl) ethane | 1.01 mmol, 0.4 g | [Si](C)(C)(C(C)(C)C)OCC(C1=CC=C(C=C1)C(C)(C)C)OC1OCCCC1 | C23H40O3Si
reactant | tetrabutylammonium fluoride | 5.0 mmol, 1M, 5 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | O | H2O
product | 1-hydroxy-2-tetrahydropyranyloxy-2-(4-tert-butylphenyl)ethane | OCC(C1=CC=C(C=C1)C(C)(C)C)OC1OCCCC1 | C17H26O3
